US06291468B1
(2) Preparation of 2-amino-4-hexylamino-6-chloropyrimidine 3-oxide
5.95 g of urea/H2O2 complex and 9.07 g of phthalic anhydride were suspended in 90 ml of isopropanol, in a three-necked flask. The mixture was stirred for 30 min at room temperature (20-25° C.). 10 g of 2-amino-4-hexylamino-6-chloropyrimidine were then added while controlling the exotherm at +30° C. After reaction for 3 hours, 100 ml of sodium hydrogen sulfite were poured thereinin to destroy the residual oxidizing agents. The mixture was permitted to separate out by settling and the upper phase was concentrated under vacuum. The residue obtained was taken up in a water (80 ml)/30% sodium hydroxide (20 ml) mixture. The solid obtained was reimpasted in 150 ml of isopropyl ether. The solid was filtered off and washed. It was dried in a heated desiccator. 4.52 g of the expected compound were thus obtained, for a yield of 42%.

reactant | phthalic anhydride | 9.07 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 2-amino-4-hexylamino-6-chloropyrimidine | 10 g | NC1=NC(=CC(=N1)NCCCCCC)Cl | C10H17ClN4
reactant | sodium hydrogen sulfite | 100 ml | S(=O)(O)[O-].[Na+]
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
solvent | isopropanol | 90 ml | C(C)(C)O | C3H8O
solvent | isopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
solvent | water | 80 ml | O | H2O
product | 2-amino-4-hexylamino-6-chloropyrimidine 3-oxide | 4.52 g, yield of 42% | NC1=NC(=CC(=[N+]1[O-])NCCCCCC)Cl | C10H17ClN4O
